US06552067B2
Analogous to the procedure described for Example 1A, Step C, 5-[4-(3-chloro-phenyl)-3-hydroxy-butyl]-pyrrolidin-2-one (1.53 g, 5.71 mmol) was reacted with tert-butyldimethylsilyl chloride (0.97 g, 6.4 mmol). Purification by medium pressure chromatography using a solvent gradient (1:1 hexanes:EtOAc to EtOAc to 1% MeOH in CH2Cl2 to 2% MeOH in CH2Cl2 to 4% MeOH in CH2Cl2) provided 5-[3-(tert-butyl-dimethyl-silanyloxy)-4-(3-chloro-phenyl)-butyl]-pyrrolidin-2-one (1.77 g). 1H NMR (CDCl3) δ7.16 (m, 3H), 7.01 (m, 1H), 5.61 (d, 1H), 3.83 (m, 1H), 3.58 (m, 1H), 2.68 (m, 2H), 2.28 (m, 3H), 1.73-1.36 (m, 5H), 0.84 (s, 9H), −0.05 (s, 3H), −0.2 (d, 3H).

reactant | 5-[4-(3-chloro-phenyl)-3-hydroxy-butyl]-pyrrolidin-2-one | 5.71 mmol, 1.53 g | ClC=1C=C(C=CC1)CC(CCC1CCC(N1)=O)O | C14H18ClNO2
reactant | tert-butyldimethylsilyl chloride | 6.4 mmol, 0.97 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
product | 5-[3-(tert-butyl-dimethyl-silanyloxy)-4-(3-chloro-phenyl)-butyl]-pyrrolidin-2-one | 1.77 g | C(C)(C)(C)[Si](OC(CCC1CCC(N1)=O)CC1=CC(=CC=C1)Cl)(C)C | C20H32ClNO2Si
